* eFuse array netlist with word_width=8, nwords=1

.SUBCKT gf180mcu_fd_sc_mcu7t5v0__inv_1 I ZN VDD VNW VPW VSS
X0 ZN I VSS VPW nfet_06v0 W=8.2e-07 L=6e-07  
X1 ZN I VDD VNW pfet_06v0 W=1.22e-06 L=5e-07
.ENDS

.SUBCKT gf180mcu_fd_sc_mcu7t5v0__inv_2 I ZN VDD VNW VPW VSS
X00 ZN I VSS VPW nfet_06v0 W=8.2e-07 L=6e-07
X01 VSS I ZN VPW nfet_06v0 W=8.2e-07 L=6e-07
X10 ZN I VDD VNW pfet_06v0 W=1.22e-06 L=5e-07
X11 VDD I ZN VNW pfet_06v0 W=1.22e-06 L=5e-07
.ENDS

.SUBCKT gf180mcu_fd_sc_mcu7t5v0__fillcap_4 VDD VNW VPW VSS
X17 net_1 net_0 VSS VPW nfet_06v0 W=8.2e-07 L=1e-06
X19 VDD net_1 net_0 VNW pfet_06v0 W=1.22e-06 L=1e-06
.ENDS

.subckt efuse_bitcell_async VSS VDD ANODE PARAMS: NUM=-1
X0 ANODE VSS efuse NUM={NUM}
.ends

.subckt efuse_senseamp VSS VPW VDD PRESET_N OUT SENSE FUSE
X2 net1 PRESET_N VDD VDD pfet_06v0 L=0.5u W=2.44u nf=2
X1 net2 OUT VDD VDD VPW VSS  gf180mcu_fd_sc_mcu7t5v0__inv_1
X2 net1 net2 VDD VDD VPW VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
X3 net2 net1 VDD VDD VPW VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
X1 net1 SENSE FUSE VPW nfet_06v0 L=0.60u W=0.82u
.ends


.subckt efuse_array_async_1x8 VSS VDD COL_PROG_N[0] OUT[0] COL_PROG_N[1] OUT[1] COL_PROG_N[2] OUT[2] COL_PROG_N[3] OUT[3] COL_PROG_N[4] OUT[4] COL_PROG_N[5] OUT[5] COL_PROG_N[6] OUT[6] COL_PROG_N[7] OUT[7] SENSE PRESET_N  
X0 VSS VDD bitline[0] efuse_bitcell_async NUM={LNUM*1000+0}
Xprog0_0 bitline[0] COL_PROG_N[0] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xprog1_0 bitline[0] COL_PROG_N[0] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xsense0 VSS VSS VDD PRESET_N OUT[0] SENSE bitline[0] efuse_senseamp
X1 VSS VDD bitline[1] efuse_bitcell_async NUM={LNUM*1000+1}
Xprog0_1 bitline[1] COL_PROG_N[1] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xprog1_1 bitline[1] COL_PROG_N[1] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xsense1 VSS VSS VDD PRESET_N OUT[1] SENSE bitline[1] efuse_senseamp
X2 VSS VDD bitline[2] efuse_bitcell_async NUM={LNUM*1000+2}
Xprog0_2 bitline[2] COL_PROG_N[2] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xprog1_2 bitline[2] COL_PROG_N[2] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xsense2 VSS VSS VDD PRESET_N OUT[2] SENSE bitline[2] efuse_senseamp
X3 VSS VDD bitline[3] efuse_bitcell_async NUM={LNUM*1000+3}
Xprog0_3 bitline[3] COL_PROG_N[3] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xprog1_3 bitline[3] COL_PROG_N[3] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xsense3 VSS VSS VDD PRESET_N OUT[3] SENSE bitline[3] efuse_senseamp
X4 VSS VDD bitline[4] efuse_bitcell_async NUM={LNUM*1000+4}
Xprog0_4 bitline[4] COL_PROG_N[4] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xprog1_4 bitline[4] COL_PROG_N[4] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xsense4 VSS VSS VDD PRESET_N OUT[4] SENSE bitline[4] efuse_senseamp
X5 VSS VDD bitline[5] efuse_bitcell_async NUM={LNUM*1000+5}
Xprog0_5 bitline[5] COL_PROG_N[5] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xprog1_5 bitline[5] COL_PROG_N[5] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xsense5 VSS VSS VDD PRESET_N OUT[5] SENSE bitline[5] efuse_senseamp
X6 VSS VDD bitline[6] efuse_bitcell_async NUM={LNUM*1000+6}
Xprog0_6 bitline[6] COL_PROG_N[6] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xprog1_6 bitline[6] COL_PROG_N[6] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xsense6 VSS VSS VDD PRESET_N OUT[6] SENSE bitline[6] efuse_senseamp
X7 VSS VDD bitline[7] efuse_bitcell_async NUM={LNUM*1000+7}
Xprog0_7 bitline[7] COL_PROG_N[7] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xprog1_7 bitline[7] COL_PROG_N[7] VDD VDD pfet_06v0 L=0.50u W=62u nf=2
Xsense7 VSS VSS VDD PRESET_N OUT[7] SENSE bitline[7] efuse_senseamp

.ends
    

.subckt efuse_async_mem_1x8 VSS VDD prog[0] out[0] prog[1] out[1] prog[2] out[2] prog[3] out[3] prog[4] out[4] prog[5] out[5] prog[6] out[6] prog[7] out[7] reset_n ready  
X0 VSS VDD COL_PROG_N[0] OUT[0] COL_PROG_N[1] OUT[1] COL_PROG_N[2] OUT[2] COL_PROG_N[3] OUT[3] COL_PROG_N[4] OUT[4] COL_PROG_N[5] OUT[5] COL_PROG_N[6] OUT[6] COL_PROG_N[7] OUT[7] sense preset_n  efuse_array_async_1x8 LNUM=0

Xinv_res RESET_N RESET VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_2
Xdel_resn0 RESET_N RESET_N_DEL0 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyd_4
Xdel_resn1 RESET_N_DEL0 RESET_N_DEL1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyd_4
Xor_preset RESET RESET_N_DEL1 PRESET_N VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__or2_2

Xinv_resnd RESET_N_DEL1 RESET_DEL0 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_2
Xdel_res0 RESET_DEL0 RESET_DEL1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyd_4
Xdel_res1 RESET_DEL1 RESET_DEL2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyd_4
Xand_sense RESET_N_DEL1 RESET_DEL2 SENSE_PREDEL VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__and2_2
Xdel_sense SENSE_PREDEL SENSE VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyd_4
Xnand_wrinhibit0 RESET_N PROG[0] COL_PROG_N[0] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_2
Xnand_wrinhibit1 RESET_N PROG[1] COL_PROG_N[1] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_2
Xnand_wrinhibit2 RESET_N PROG[2] COL_PROG_N[2] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_2
Xnand_wrinhibit3 RESET_N PROG[3] COL_PROG_N[3] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_2
Xnand_wrinhibit4 RESET_N PROG[4] COL_PROG_N[4] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_2
Xnand_wrinhibit5 RESET_N PROG[5] COL_PROG_N[5] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_2
Xnand_wrinhibit6 RESET_N PROG[6] COL_PROG_N[6] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_2
Xnand_wrinhibit7 RESET_N PROG[7] COL_PROG_N[7] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_2

.ends
    
.end
    